US09303033B2
To tert-butyl cyclopropyl(5-(2-fluoropyridin-4-yl)-3-formylpyrazolo[1,5-a]pyrimidin-7-yl)carbamate (320 mg, 0.82 mmol) in methylene chloride (3 mL) was added TFA (3 mL). The reaction mixture was stirred at room temperature for 1.5 hours. The volatiles were removed by rotary evaporation and 1N NaOH was added to the residue to make basic. The precipitate was collected by filtration, washed with water, and dried under vacuum to provide 180 mg of 7-(cyclopropylamino)-5-(2-fluoropyridin-4-yl)pyrazolo[1,5-a]pyrimidine-3-carbaldehyde (74%). LCMS (M+1=298)

reactant | tert-butyl cyclopropyl(5-(2-fluoropyridin-4-yl)-3-formylpyrazolo[1,5-a]pyrimidin-7-yl)carbamate | 0.82 mmol, 320 mg | C1(CC1)N(C(OC(C)(C)C)=O)C1=CC(=NC=2N1N=CC2C=O)C2=CC(=NC=C2)F | C20H20FN5O3
reactant | TFA | 3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
product | 7-(cyclopropylamino)-5-(2-fluoropyridin-4-yl)pyrazolo[1,5-a]pyrimidine-3-carbaldehyde | 180 mg, 74% | C1(CC1)NC1=CC(=NC=2N1N=CC2C=O)C2=CC(=NC=C2)F | C15H12FN5O
